US06291464B1
To a stirred solution of rac-N-benzyl-1-acetyl-4-aminopiperazine-2-carboxamide (274 mg) and triethylamine (0.28 ml) in dichloromethane (5 ml) was added 4-fluorobenzoyl chloride (0.13 ml) at 0° C. The mixture was stirred at ambient temperature for 1 hour, washed with water and brine. The organic layer was dried over magnesium sulfate, and concentrated. The residue was purified by column chromatography eluting with a mixture of methanol and chloroform (1:9) to give crystals. Recrystallization of methanol, ethyl acetate and n-hexane gave rac-N-[4-acetyl-3-(N-benzylcarbamoyl)-1-piperazinyl]-4-fluorobenzamide (104 mg).

reactant | rac-N-benzyl-1-acetyl-4-aminopiperazine-2-carboxamide | 274 mg | C(C1=CC=CC=C1)NC(=O)C1N(CCN(C1)N)C(C)=O | C14H20N4O2
reactant | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzoyl chloride | 0.13 ml | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | rac-N-[4-acetyl-3-(N-benzylcarbamoyl)-1-piperazinyl]-4-fluorobenzamide | 104 mg | C(C)(=O)N1C(CN(CC1)NC(C1=CC=C(C=C1)F)=O)C(NCC1=CC=CC=C1)=O | C21H23FN4O3
